US05216003
Step 7: Synthesis of 2-Carboxy-4-phosphonomethylbenzimidazole:
2-Hydroxymethyl-4-phosphonomethylbenzimidazole (411 mg) and KMnO4 (70 mg) in water (7 mL) containing 3 equivalents of NaOH were warmed to 80° C. KMnO4 (636 mg) was divided into 9 equal portions and added over 3.5 hours. The reaction was stirred at 80° C. for one additional hour then cooled and filtered through diatomaceous earth. The pale yellow solution was concentrated to a yellow solid. The solid was taken up in water and applied to a column of Amberlite CG 400 (0.5×16 cm). The column was eluted with water (50 mL), then 1N HOAc, 2N HOAc, 4N HOAc, and finally 1N HCl (50 mL each). The HCl fractions were pooled and concentrated to a yellow solid. The solid was triturated with water, then collected by suction filtration and washed with a small amount of ethanol and ether to obtain a white solid. H NMR data: D2O (HDO at 4.64 ppm) 3.06 (d, 2H), 7.15 (m, 2H), 7.41 (d, 1H). E.A. Cal'd for C9H9N2O5P.0.6 H2O; C, 40.49, H, 3.85, N, 10.49. Found; C, 40.10, N, 3.57, N, 10.30.

reactant | 2-Hydroxymethyl-4-phosphonomethylbenzimidazole | 411 mg | OCC=1NC2=C(N1)C=CC=C2CP(=O)(O)O | C9H11N2O4P
reactant | KMnO4 | 70 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaOH | 3 equivalents | [OH-].[Na+]
reactant | KMnO4 | 636 mg | [O-][Mn](=O)(=O)=O.[K+]
solvent | water | 7 mL | O | H2O
product | 2-Carboxy-4-phosphonomethylbenzimidazole | C(=O)(O)C=1NC2=C(N1)C=CC=C2CP(=O)(O)O | C9H9N2O5P
